US04738975
4-Chloro-3-methoxy-2-methylpyridine (3.14 g) was added to a solution of sodium (2.0 g) in ethanol (30 ml), and the solution was refluxed by heating for 10 hours. The solvent was evaporated and the residue was added to ice water, which was extracted with chloroform, washed with water, dried and evaporated. The residue was purified by column chromatography on silica gel, to give 4-ethoxy-3-methoxy-2-methyl-pyridine (2.6 g) as a light brown oil.

reactant | 4-Chloro-3-methoxy-2-methylpyridine | 3.14 g | ClC1=C(C(=NC=C1)C)OC | C7H8ClNO
reactant | sodium | 2.0 g | [Na] | Na
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 4-ethoxy-3-methoxy-2-methyl-pyridine | 2.6 g | C(C)OC1=C(C(=NC=C1)C)OC | C9H13NO2
